datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[Si](CC)(CC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>CC[Si](CC)(CC)[C:13]1=[O+:14][CH:10]([F:20])[CH:11]=[CH:12]1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=CC=CC=C21.[CH:10]1=[CH:11][NH:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[N:63]2>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH:10]2[CH:11]=[NH+:12][C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[N:63]3)[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C.C[C:72]1=[CH:71][N-:10][CH:61]=[N:62]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([N:10]2[CH:61]=[N:62][C:72](C)=[CH:71]2)[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1[C:11](=[CH:10]C2=CC=C([N+](=O)[O-])C=C2)[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:64]=[CH:65]1.CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25])=[O:32]>>CC[O:33][C:31]([CH:20]([CH:10](C1=CC=C([N+](=O)[O-])C=C1)[C:11]1=[N+:12](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[CH:65]=[CH:64][N:63]1C1=C(C(C)(C)C)C=CC=C1C(C)(C)C)[C:21](C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CCCC[Si](CCCC)(CCCC)[C:13]1=[CH:12][CH:11]=[CH:10][O:14]1.FC(F)(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[S:32]1(=[O:33])=[O:34]>>C1=CC2=C(C=C1)[S:32](=[O:33])(=[O:34])[N:21]=[C:22]2[O-:23].CCCC[Si](CCCC)(CCCC)[C:13]1=[O+:14][CH:10]([S:20]C(F)(F)F)[CH:11]=[CH:12]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.C[C:11](=[N:10][C:61](C)=[O:62])[O-:12]>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([N:10]([C:11](C)=[O:12])[C:61](C)=[O:62])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:72][P:61]([CH-:10][C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC.CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C>>CC[O:72][P:61]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C(CC2=CC=CC=C2)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[C:92](=[O:93])[O:103]CC)(=[O:62])[O:82]CC 10=20;20,21=21,22;22,23=23"
"C1=C[C:62]2=[C:63](C=C1)[C:71](=[O:72])[N-:10][C:61]2=[O:62].CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([N:10]2[C:61](=[O:62])[C:62]3=[C:63](C=CC=C3)[C:71]2=[O:72])[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:11]1=[CH:10]CCCC1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[C+:11]1CCCC[CH:10]1[CH:20](C)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2 10,11=10,20;20,21=21"
"CC[O:72][C:61]([C:10](C)=[P:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=[O:62].Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[O:72][C:61]([C:10](C)([P+:11](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[C:20]([C:31]1=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1)=[O:62] 10,11=10,20"
"C1=CC=C(/[CH:10]=[CH:11]/[N:12]2CCOCC2)C=C1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10](C2=CC=CC=C2)[CH:11]=[N+:12]2CCOCC2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:41]1=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]1)[C:22]2=[O:23].O=[N+]([O-])C1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>O=[N+]([O-])C1=CC=C([S:61]([CH:10](Cl)[CH:20]([C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)(=[O:62])=[O:72])C=C1 10=20;20,21=21,22;22,23=23"
"C1C[C:20](=[O:21])C1.CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62]/[CH:11]=[CH:10]/C)OC1(C)C>>CC1(C)O[B-:63](C2=CC(C(F)(F)F)=CC(C(F)(F)F)=C2)([CH2:62][CH+:11][CH:10](C)[C:20]2([O-:21])CCC2)OC1(C)C 10,11=10,20;20,21=21"
